2125-06-12 07:12:00 Physician Resident Progress Note
Chief Complaint: Cardiac Arrest
   24 Hour Events:
   -Hypertensive on admission, nitro gtt and labetolol gtt started.
   labetolol dc'd and nifedipine started. Pressure responded
   -Patient started on hypothermic protocol
   -Subclavian line placed
   -Amio gtt started
   -CXR showed widened mediastinum felt to be [**2-5**] engorged vasculature.
   Considered giving lasix but pt autodiuresing well, now -800 mL.
   -Heparin gtt started this am giving CE cont to trend up
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.59 mcg/Kg/min
   Cisatracurium - 0.06 mg/Kg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Labetalol - [**2125-6-11**] 10:35 PM
   Fentanyl - [**2125-6-11**] 11:05 PM
   Cisatracurium - [**2125-6-11**] 11:40 PM
   Midazolam (Versed) - [**2125-6-11**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-12**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 52 (46 - 120) bpm
   BP: 158/87(112) {77/48(57) - 234/151(184)} mmHg
   RR: 18 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 74 Inch
             Total In:
                                                                    209 mL
                                                                    729 mL
   PO:
             TF:
   IVF:
                                                                    209 mL
                                                                    729 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                  1,900 mL
   Urine:
   1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -841 mL
                                                                 -1,171 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.40/41/147/22/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 245
   Physical Examination
   GENERAL: Obese caucasian male, intubated, sedated.
   HEENT: NCAT. Sclera anicteric. PERRL. Conjunctiva pink, no pallor or
   cyanosis of the oral mucosa.
   NECK: Unable to appreciate JVP given c-collar in place.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Anterior lung fields clear with audible mechanical ventilation
   ABDOMEN: + BS Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: 2+ carotid 2+ DP 2+ PT 2+
   Left:  2+ carotid 2+ DP 2+ PT 2+
   Labs / Radiology
   229 K/uL
   14.2 g/dL
   347 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.2 mEq/L
   21 mg/dL
   95 mEq/L
   132 mEq/L
   41.8 %
   14.0 K/uL
        [image002.jpg]
                             [**2125-6-11**]  10:47 PM
                             [**2125-6-12**]  01:52 AM
                             [**2125-6-12**]  04:01 AM
                             [**2125-6-12**]  04:31 AM
   WBC
   17.5
   14.0
   Hct
   44.0
   41.8
   Plt
   265
   229
   Cr
   1.1
   0.9
   TropT
   0.38
   0.46
   TCO2
   25
   26
   Glucose
   297
   347
   Other labs: PT / PTT / INR:14.4/33.8/1.3, CK / CKMB /
   Troponin-T:260/24/0.46, Differential-Neuts:90.1 %, Lymph:6.1 %,
   Mono:3.5 %, Eos:0.1 %, Lactic Acid:2.5 mmol/L, Ca++:8.5 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is a 67 year old male with h/o CAD and s/p MI in [**2123**] without
   successful intervention who was found down by EMS who initiated CPR.
   Patient transferred to [**Hospital1 1**] for revascularization.
   .
   # CORONARIES: CEs continue to trend up with troponin 0.46, MB 24, MBI
   9.2, CK 260. Two possible scenarios could explain these findings: 1)
   scar related vfib + NSTEMI or 2) scar related vfib + hypopoperfusion
   leading to myonecrosis.  Given ccath last night did not indicate any
   new active clot scenario #2 would seem more plausible unless there was
   a smaller more discrete vessel affected. Heparin gtt initiated this am
   without bolus given concern for possible ACS.
   - Consider repeat cardiac cath
   - Cont hypothermia protocol: pt reached optimal cooling temp at 0100
   - Cont to trend CE until they peak.
   - d/c Amiodarone gtt
   - Cont wean Nitro gtt to off
   - d/c Nifedipine gtt
   - Replete electrolytes aggressively
   - ECHO today
   -hold Heparin gtt for now until CT-head
   - plan for CT-head
   - pull sheath today
   .
   # PUMP: Patient remains euvolemic and is -800 mL overnight.
   - Repeat CXR this am
   - ECHO in am as per above
   - BP control as per above
   .
   # RHYTHM: Sinus bradycardia with occasional PVCs. Bradycardia likely
   [**2-5**] hypothermia.
   - Cont Amiodarone gtt
   - Will likely require long term anticoagulation following resolution of
   acute issues (transient AF and h/o TIA)
   - Monitor on tele
   - Atropine at bedside
   .
   # Altered Mental Status: Patient remains sedated and hypothermic.
   - Attempt to wean sedation following completion of hypothermia protocol
   .
   # Hypertension: BP much improved on nitro and nifedipine drips.
   - Cont nifedipine gtt
   - Cont nitro gtt PRN and wean to off today
   - Hold outpatient regimen of ACE for now
   .
   #. C-spine: Pt was reportly found down. Placed in c-collar.
   - CT c-spine, head
   - clear collar when off sedation
   # H/O TIA vs Stroke: Per family patient has no residual effects of this
   event. Given this history and possibility of afib patient would qualify
   for long term anticoagulation.
   .
   .
   FEN: NPO for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Sheath - [**2125-6-11**] 10:30 PM
   Arterial Line - [**2125-6-11**] 10:30 PM
   18 Gauge - [**2125-6-11**] 10:30 PM
   Multi Lumen - [**2125-6-12**] 01:30 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI (per home regimen)
   VAP:  HOB elevated
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 129**] status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Doctor Last Name **] *(admit note).
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   s/p cardiac arrest, cooling protocol, MI, respiratory failure,
   paralyzed
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2125-6-12**] 10:08 ------

2125-06-13 07:51:00 Physician Resident Progress Note
Chief Complaint: Cardiac Arrest
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2125-6-12**] 10:00 AM
 SHEATH - STOP [**2125-6-12**] 03:07 PM
 ARTERIAL LINE - STOP [**2125-6-12**] 03:30 PM
   - completed cooling protocol, rewarming started 8pm
   - sheath pulled, post-sheath check at 9pm no complications
   - A-line pulled
   - d/c amio, heparin gtt and nitro gtt; d/c cisatracurium at midnight
   - FiO2 was decreased to 40% at noon (ABG: 7.43/40/74/27), and switched
   to CPAP at 07:00 (ABG Pending, sats > 97%)
   - Head CT: no acute process, small right parietal subgaleal hematoma.
   No fracture
   - C-spine: no fracture or dislocation. multilevel cervical spondylosis
   with posterior disk osteophytes indenting the thecal sac.
   - ECHO:The left/right atrium is mildly dilated. There is moderate
   regional left ventricular systolic dysfunction with severe focal
   hypokinesis of the inferior, inferolateral, and inferoseptal walls (EF
   35%).
   - Neurology initiated EEG monitoring, will see patient in AM
   - elevated FS 300's, HbA1c 8.3% Plan to add basal tomorrow based on
   requirement
   - Hct down from 40.2 to 38.3
   - Cre up from 0.9 to 1.3
   - patient awake, moving and will squeeze hands
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-13**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 89 (42 - 89) bpm
   BP: 93/46(66) {81/46(60) - 134/87(98)} mmHg
   RR: 19 (8 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 113 kg
   Height: 74 Inch
             Total In:
                                                                  1,716 mL
                                                                     43 mL
   PO:
             TF:
   IVF:
                                                                  1,716 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                    280 mL
   Urine:
                                                                  2,670 mL
                                                                    280 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,054 mL
                                                                   -237 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 555 (555 - 555) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.43/40/74/29/1
   Ve: 8.5 L/min
   PaO2 / FiO2: 185
   Physical Examination
   GENERAL: Obese caucasian male, intubated,awake, alert, responding to
   commands with nodding, hand squeezing.
   HEENT: NCAT. Sclera anicteric. PERRL. Conjunctiva pink, no pallor or
   cyanosis of the oral mucosa.
   NECK: Unable to appreciate JVP given c-collar in place.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Anterior lung fields clear with audible mechanical ventilation
   ABDOMEN: + BS Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: 2+ carotid 2+ DP 2+ PT 2+
   Left:  2+ carotid 2+ DP 2+ PT 2+
   Neuro: Able to move upper and lower extremities. Pull neuro exam later
   today following extubation and collar removal.
   Labs / Radiology
   224 K/uL
   13.1 g/dL
   180 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.7 mEq/L
   24 mg/dL
   100 mEq/L
   138 mEq/L
   38.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2125-6-11**]  10:47 PM
                             [**2125-6-12**]  01:52 AM
                             [**2125-6-12**]  04:01 AM
                             [**2125-6-12**]  04:31 AM
                             [**2125-6-12**]  09:05 AM
                             [**2125-6-12**]  03:02 PM
                             [**2125-6-12**]  03:07 PM
                             [**2125-6-13**]  04:31 AM
   WBC
   17.5
   14.0
   8.5
   Hct
   44.0
   41.8
   40.2
   38.3
   Plt
   265
   229
   224
   Cr
   1.1
   0.9
   0.9
   1.3
   TropT
   0.38
   0.46
   0.31
   TCO2
   25
   26
   25
   27
   Glucose
   297
   347
   272
   180
   Other labs: PT / PTT / INR:13.3/24.5/1.1, CK / CKMB /
   Troponin-T:144/16/0.31, Differential-Neuts:90.1 %, Lymph:6.1 %,
   Mono:3.5 %, Eos:0.1 %, Lactic Acid:2.5 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   67 yo M with h/o CAD s/p MI in [**2123**] without successful intervention,
   who was found down by EMS who initiated CPR and transferred to [**Hospital1 1**]
   for revascularization.
   1. Coronaries. s/p cooling protocol.
   - CEs trending down
   - Cont ASA, statin
   - Replete electrolytes aggressively
   2. PUMP: Echo shows EF 35%, dilated atria, severe hypokinesis of
   inferior, inferolateral, and inferoseptal walls. Clinically euvolemic
   and -1L so far. Will likely require maintenance diuresis for CHF.
   - Follow BPs today; fluid bolus if hypotensive
   - No diuresis for now given low BPs
   - No ACE for now given low BPs
   3. RHYTHM: Stable since admission with occasional PVCs.
   - Discuss possible ICD placement with EP
   - Will likely require long-term anticoagulation following resolution of
   acute issues given Afib on admission
   - Monitor on tele
   4. Altered Mental Status: Weaning sedation today, pt is now alert and
   responsive. Head CT shows no acute process.
   - Follow neuro rec's after EEG today
   - Continue to wean sedation today
   - Restraints for now as he recovers baseline status
   5. Hypertension: Resolved; now bordering on hypotension.
   - Follow BPs today, consider fluid bolus if needed.
   6. Respiratory status: Much improved. Now on CPAP with 40% FiO2.
   - Extubate today
   7. ARF: New this AM. Likely related to poor forward flow given likely
   new pump problems and hypotension this morning.
   - Will trend cre as acute issues resolve.
   8. h/o TIA vs Stroke:
   - likely long-term anticoagulation after resolution of acute process
   9. Hyperglycemia: HbA1c of 8.3 indicating pt likely has type II
   diabetes and will require outpatient management.
   - FSBGs in 300s. Will start basal insulin and continue SSI.
   FEN: NPO for now, replete electrolytes.
   ACCESS: PIVs, L subclavian central line
   PPx: Heparin SQ, pantoprazole
   CODE: full
   HCP: Wife [**Telephone/Fax (1) 6549**]
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2125-6-13**] 18:08 ------
   Critical care time: 45 minutes (cardiac arrest, ventilated, MI)
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2125-6-13**] 18:09 ------

2125-06-14 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2125-6-13**] 10:30 AM
   - Extubated, C-spine cleared
   - EEG results: no issues
   - Neuro: will arrange long-term follow-up for remaining mild neuro
   deficits (clumsiness, memory, cognitive)
   - I/O check (goal -500 cc): +300 at MN
   - Around 2am pt was complaining of mild CP [**2-13**]. EKG showed frequent
   PVCs and more prominent RBBB, no new ST changes. Since pt was
   previously CP free, and no invervention was done on cath (2VD LAD,Lcx
   nearly completly occluded) restarted pt on NTG gtt and heparin gtt,
   sent new CE on AM labs to trend.
   - CK 144 -> 298
   - Hct 38 -> 33.8
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Nitroglycerin - 0.17 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-14**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 82 (75 - 98) bpm
   BP: 98/59(69) {87/46(57) - 119/76(99)} mmHg
   RR: 21 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 113 kg
   Height: 74 Inch
             Total In:
                                                                  2,131 mL
                                                                     49 mL
   PO:
                                                                  1,990 mL
             TF:
   IVF:
                                                                     51 mL
                                                                     49 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    230 mL
   Urine:
                                                                    620 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,511 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   SpO2: 100%
   ABG: 7.38/47/87.[**Numeric Identifier 274**]/25/1
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   diffuse), (Breath Sounds: Crackles : throughout, Wheezes : diffuse,
   Rhonchorous: bilaterally). No sternal hematoma.
   Abdominal: Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: 1+, Left: 1+. No groin hematoma.
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x2,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   196 K/uL
   11.7 g/dL
   167 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   34 mg/dL
   100 mEq/L
   137 mEq/L
   33.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2125-6-11**]  10:47 PM
                             [**2125-6-12**]  01:52 AM
                             [**2125-6-12**]  04:01 AM
                             [**2125-6-12**]  04:31 AM
                             [**2125-6-12**]  09:05 AM
                             [**2125-6-12**]  03:02 PM
                             [**2125-6-12**]  03:07 PM
                             [**2125-6-13**]  04:31 AM
                             [**2125-6-13**]  08:36 AM
                             [**2125-6-14**]  02:59 AM
   WBC
   17.5
   14.0
   8.5
   7.4
   Hct
   44.0
   41.8
   40.2
   38.3
   33.8
   Plt
   265
   229
   224
   196
   Cr
   1.1
   0.9
   0.9
   1.3
   1.2
   TropT
   0.38
   0.46
   0.31
   0.23
   TCO2
   25
   26
   25
   27
   29
   Glucose
   297
   347
   272
   180
   167
   Other labs: PT / PTT / INR:14.5/134.7/1.3, CK / CKMB /
   Troponin-T:298/5/0.23, Differential-Neuts:90.1 %, Lymph:6.1 %, Mono:3.5
   %, Eos:0.1 %, Lactic Acid:2.5 mmol/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   67 yo M with h/o CAD s/p MI in [**2123**] without successful intervention,
   who was found down by EMS who initiated CPR and transferred to [**Hospital1 1**]
   for revascularization.
   1. Coronaries. s/p cooling protocol. O/N complained of CP; remained
   hemodynamically stable, no SOB. EKG during episode showed change in
   RBBB morphology but now ST/T changes. Started nitro gtt and increased
   heparin gtt. Also cannot r/o MSK pain r/t CPR. On exam, reports CP on
   palpation of chest. CEs this morning show CK trending back up, 144 ->
   298.
   - follow CEs
   - Monitor on tele
   - d/c heparin gtt given drop in Hct
   - d/c nitro gtt
   - Cont ASA, statin
   - Replete electrolytes aggressively
   2. PUMP: Echo shows EF 35%, dilated atria, severe hypokinesis of
   inferior, inferolateral, and inferoseptal walls. Clinically slightly
   volume up and +1.5L since yesterday. Has not been diuresed yet because
   of low BPs. Will likely require maintenance diuresis for CHF.
   - repeat CXR
   - cont metoprolol 12.5 [**Hospital1 **]
   - Follow BPs today, goal TBB even with gentle diuresis
   - No ACE for now given low BPs
   3. RHYTHM: Stable since admission with occasional PVCs.
   - Cardiac MRI
   - Discuss possible ICD placement with EP
   - Will likely require long-term anticoagulation following resolution of
   acute issues given Afib on admission
   - Monitor on tele
   4. Anemia: Rapid drop in Hct is concerning. Baseline 44 three days ago,
   then 38 yesterday, now 33.8. No BRBPR, no hemoptysis, no acute mental
   status change, no abd tenderness, no groin or sternal hematoma.
   However, lungs are wet and abdomen is distended. s/p cath therefore
   can
t r/o RP bleed.
   - CT-scan to r/o RP bleed
   - Guaiac today
   - T&C done, 3 units ready
   - 18g PIVs in place
   5. Altered Mental Status: Alert x2 (
deaconness, [**2106**], [**Known firstname **] [**Known lastname **]
   and responsive. Exam unchanged from yesterday. Per neuro rec yesterday,
   no immediate issues.
   6. Respiratory status: Extubated, satting 100% on 4L NC. SaO2 drops
   quickly on sitting up.
   7. ARF: Stable since yesterday. Likely related to poor forward flow,
   will likely resolve as hemodynamics improve.
   - Will trend cre as acute issues resolve.
   8. Hyperglycemia: FSBGs in 160-220s. Will titrate insulin prn
   FEN: NPO for now, replete electrolytes.
   ACCESS: PIVs, L subclavian central line
   PPx: Heparin SQ, pantoprazole
   CODE: full
   HCP: Wife [**Telephone/Fax (1) 6549**]
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-6-11**] 10:30 PM
   Multi Lumen - [**2125-6-12**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 335**].
   I would add the following remarks:
   History
   Excellent neuro recovery with fluent speech and conversation.
   Concerned about HCT drop 44 to 33.
   Chest pain at 2 AM persisting this AM with no significant enzyme
   change, most likely pain from CPR.
   Physical Examination
   alert, cooperative
   Medical Decision Making
   Will check abd ct to r/o RP bleed.
   Plans per EP service re ablation or AICD.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2125-6-14**] 14:44 ------

2125-06-15 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2125-6-14**] 01:00 PM
   24-hr Events:
   - Abd CT- neg for RP bleed
   - Pt episode of HR 120 (a-flutter/SR). Titrated metoprolol to 25mg [**Hospital1 **]
   - Per EP: restart heparin gtt when able, will need long-term anticoag.
   Obtain records from [**Hospital1 632**]
   - 12:00pmHct 36 (33)---> 28 (8:45pm) --> 10:20PM 35
   - Cardiac MRI:read pending
   - Gave another dose of metop 12.5mg since HR in 120's
   - -600 cc at 3pm, no lasix given
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-6-14**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-15**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 70 (57 - 119) bpm
   BP: 105/69(77) {99/61(72) - 142/90(102)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 113 kg
   Height: 74 Inch
                  Total In:
                                                                     79 mL
                  PO:
                  TF:
   IVF:
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    500 mL
   Urine:
                                                                  1,880 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,801 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   diffuse), (Breath Sounds: CTA b/l. No sternal hematoma.
   Abdominal: Non-tender, Bowel sounds present, Distended, soft Obese
   Extremities: Right: 1+, Left: 1+. No groin hematoma.
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x2,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   187 K/uL
   11.8 g/dL
   150 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   25 mg/dL
   98 mEq/L
   134 mEq/L
   35.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2125-6-12**]  09:05 AM
                             [**2125-6-12**]  03:02 PM
                             [**2125-6-12**]  03:07 PM
                             [**2125-6-13**]  04:31 AM
                             [**2125-6-13**]  08:36 AM
                             [**2125-6-14**]  02:59 AM
                             [**2125-6-14**]  12:14 PM
                             [**2125-6-14**]  08:43 PM
                             [**2125-6-14**]  10:21 PM
                             [**2125-6-15**]  12:00 AM
   WBC
   8.5
   7.4
   7.6
   Hct
   40.2
   38.3
   33.8
   36.5
   28.1
   35.8
   35.0
   Plt
   [**Telephone/Fax (3) 6605**]
   Cr
   0.9
   1.3
   1.2
   0.8
   TropT
   0.31
   0.23
   TCO2
   25
   27
   29
   Glucose
   272
   180
   167
   150
   Other labs: PT / PTT / INR:12.9/25.0/1.1, CK / CKMB /
   Troponin-T:298/5/0.23, Differential-Neuts:90.1 %, Lymph:6.1 %, Mono:3.5
   %, Eos:0.1 %, Fibrinogen:294 mg/dL, Lactic Acid:2.5 mmol/L, LDH:296
   IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, OTHER
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 CARDIAC ARREST
   A/P: 67 yoM h/o CAD s/p MI [**2123**] without successful intervention, s/p
   cardiac arrest 3d ago and received CPR in the field, transferred to
   [**Hospital1 1**], now s/p cooling protocol.
   1. Coronaries, s/p cooling protocol. O/N received 2 add'l doses of
   metoprolol for tachycardia. CP consistent with msk given chest
   compressions. .
   - monitor on tele
   - Cont ASA, statin, beta-blocker
   2. PUMP: TBB - 1.5L
   - cont gentle diuresis
   - BP slightly improved today, 99/64 - 131/79
   3. RHYTHM: Episodes of sinus tach overnight, resolved with metoprolol.
   Continues to have occasional PVCs but no runs of VTs.
   - EP planning on VT ablation next week, ICD later.
   - Cardiac MRI pending
   - Monitor tele
   - Will require long-term anticoagulation. Restart when Hct stable
   4. Anemia: Hct improved slightly to 35.0. CT of Abd, Pelvis negative
   for bleed.
   - Continue to trend Hct, check PM Hct
   - Guaiac stools
   5. Mental Status: Improved oriented x3.
   6. Respiratory status: stable, wean NC as tolerated.
   7. ARF: Resolved, Cre 0.8
   8. Hyperglycemia: FSBGs 166-230
   - adjust insulin today
   9. AAA: Incidental finding on Abd CT, largest diameter 4.7cm
   - Recommend outpatient followup
   FEN: cardiac, diabetic
   PPx: Heparin SQ, pantoprazole
   Dispo: CCU for now pending 24 hrs stable, PT consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-6-11**] 10:30 PM
   Multi Lumen - [**2125-6-12**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 335**].
   I would add the following remarks:
   History
   Doing well with less chest pain (musculoskeletal from CPR).
   Cardiac MRI results pending.
   Physical Examination
   Neuro exam benign.
   Medical Decision Making
   Plans as per EP for VT ablation + AICD.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2125-6-15**] 11:16 ------